US05011947
5,5-Bis(4-fluorophenyl)-4-(1,1-dimethylethyl)-2,4-pentadienal
Lithium diisopropylamide (5.4 mL of 1.84M solution, 10 mmol) was added to N-ethylidenecyclohexanamine (5 mL of 2M solution, 10 mmol) in tetrahydrofuran at -20° C. After stirring for 30 minutes and further cooling to -50° C., 3,3-bis(4-fluorophenyl)-2-(1,1-dimethylethyl)propenal (0.9 g, 3.0 mmol) was added and the solution stirred for 4 hours during which time the temperature was allowed to rise to -20° C. The solution was quenched with 2N hydrochloric acid and the mixture extracted with diethyl ether. The extracts were dried and concentrated in vacuo. The residue was stirred for 18 hours with a mixture of 50 mL benzene, 15 mL of water and 35 mL of acetic acid. The mixture was diluted to 200 mL with water. The organic layer was separated, washed with saturated sodium bicarbonate solution, dried over magnesium sulfate and concentrated in vacuo. The residue was purified by chromatography on silica eluting with 1% ethyl acetate in hexane to give 0.5 g of the title compound; m.p. =87°-89° C.

reactant | Lithium diisopropylamide | 10 mmol, 1.84M, 5.4 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | N-ethylidenecyclohexanamine | 10 mmol, 2M, 5 mL | C(C)=NC1CCCCC1 | C8H15N
reactant | 3,3-bis(4-fluorophenyl)-2-(1,1-dimethylethyl)propenal | 3.0 mmol, 0.9 g | FC1=CC=C(C=C1)C(=C(C=O)C(C)(C)C)C1=CC=C(C=C1)F | C19H18F2O
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
product | 5,5-Bis(4-fluorophenyl)-4-(1,1-dimethylethyl)-2,4-pentadienal | 0.5 g | FC1=CC=C(C=C1)C(=C(C=CC=O)C(C)(C)C)C1=CC=C(C=C1)F | C21H20F2O
